US08980911B2
To a solution of (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone (60 mg, 0.19 mmol) in dimethylformamide (1 mL) was added cyanoacetic acid (25 mg, 0.29 mmol), hydroxybenzotriazole (39.73 mg, 0.29 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (56.17 mg, 0.29 mmol) and N,N-diisopropylethyl amine (0.06 mL, 0.31 mmol) in the same order. The reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was poured onto water (10 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulphate, filtered and the solvent was removed under rotary evaporator. The product was purified by silica gel column chromatography using dichloromethane and methanol (1.5-2%) as eluant to yield 2-cyano-N-[3,5-dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)phenyl]acetamide (8.7 mg, 12%).

reactant | (4-amino-2,6-dichlorophenyl)(1H-pyrrolo[3,2-c]pyridin-1-yl)methanone | 0.19 mmol, 60 mg | NC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C14H9Cl2N3O
reactant | cyanoacetic acid | 0.29 mmol, 25 mg | C(#N)CC(=O)O | C3H3NO2
reactant | hydroxybenzotriazole | 0.29 mmol, 39.73 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 0.29 mmol, 56.17 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N,N-diisopropylethyl amine | 0.31 mmol, 0.06 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-cyano-N-[3,5-dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)phenyl]acetamide | 8.7 mg, 12% | C(#N)CC(=O)NC1=CC(=C(C(=C1)Cl)C(=O)N1C=CC=2C=NC=CC21)Cl | C17H10Cl2N4O2
